US05081249
Sodium 2-pyridinesulfonate (1 mmol) was added to 2.2 ml of a solvent mixture containing water and acetonitrile (1:10). A gas mixture containing fluorine gas and nitrogen gas (1:9) was then introduced into the resultant mixture at -25° C. and at a flow rate of 30 ml/min. The amount of the fluorine introduced was 9 mmol. After the reaction, 20 ml of tetrahydrofuran was added to the reaction solution, and the separated precipitate was filtered off. The thus-formed precipitate was extracted with acetonitrile, and the solvent was then removed by distillation to provide 68 mg (38 percent) of N-fluoropyridinium-2-sulfonate. The spectral data of the product was the same as that obtained in Example 1.

reactant | Sodium 2-pyridinesulfonate | 1 mmol | N1=C(C=CC=C1)S(=O)(=O)[O-].[Na+]
reactant | water | O | H2O
reactant | acetonitrile | C(C)#N | C2H3N
reactant | fluorine | FF | F2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N-fluoropyridinium-2-sulfonate | 68 mg, 38 percent | F[N+]1=C(C=CC=C1)S(=O)(=O)[O-] | C5H4FNO3S
